US05965562
a) [1-(4-Nitro-benzyl)-but-3-enyl]-carbamic acid benzyl ester
In the presence of triethylamine (5.6 ml, 40.0 mmol) and benzyl alcohol (5.18 g, 48.0 mmol) in toluene, 11.55 g (42.0 mmol) of phosphoric acid diphenyl ester azide are added at 50° C. to 2-(4-nitro-benzyl)-pent-4-enecarboxylic acid [2-(4-nitro-benzyl)-pent-4-enoic acid is prepared analogously to 2-(4-chloro-benzyl)-pent-4-enoic acid, see J. Med. Chem, 1968, 11(3), 5341 (9.3 g, 40.0 mmol). After 20 minutes the temperature is increased slowly and the mixture is then maintained under reflux for 3 hours. After cooling, the reaction mixture is washed twice with 1 N sodium hydroxide solution, twice with 1 N hydrochloric acid and twice with brine, dried over sodium sulfate and concentrated by evaporation using a rotary evaporator. After crystallisation of the crude product from toluene/hexane, the title compound is obtained in the form of white crystals. M.p.: 94-95° C. TLC: ethyl acetate/hexane (1:3) Rf =0.22.

reactant | triethylamine | 40.0 mmol, 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | benzyl alcohol | 48.0 mmol, 5.18 g | C(C1=CC=CC=C1)O | C7H8O
reactant | phosphoric acid diphenyl ester azide | 42.0 mmol, 11.55 g | [N-]=[N+]=[N-].C1(=CC=CC=C1)OP(OC1=CC=CC=C1)(O)=O
reactant | 2-(4-nitro-benzyl)-pent-4-enecarboxylic acid | [N+](=O)([O-])C1=CC=C(CC(CC(=O)O)CC=C)C=C1 | C13H15NO4
reactant | 2-(4-nitro-benzyl)-pent-4-enoic acid | [N+](=O)([O-])C1=CC=C(CC(C(=O)O)CC=C)C=C1 | C12H13NO4
reactant | 2-(4-chloro-benzyl)-pent-4-enoic acid | ClC1=CC=C(CC(C(=O)O)CC=C)C=C1 | C12H13ClO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [1-(4-Nitro-benzyl)-but-3-enyl]-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(NC(CC=C)CC1=CC=C(C=C1)[N+](=O)[O-])=O | C19H20N2O4
